US07067515B2
2-(1,3-Dioxolan-2-yl)-1-benzofuran-3-carbaldehyde (3.63 g, 16.6 mmol) is dissolved in formic acid (16.3 ml, 433 mmol) with water (4.1 ml). After 2 hours, additional formic acid (10 ml) and water (2.5 ml) are added to alleviate the slurry. The reaction stirred 12 h and is diluted with water (30 ml). The resulting slurry is filtered, dried in an air stream, affording 2.66 g (92%) of 1-benzofuran-2,3-dicarbaldehyde as an orange solid. MS (EI) m/z: 174 (M+).

reactant | 2-(1,3-Dioxolan-2-yl)-1-benzofuran-3-carbaldehyde | 16.6 mmol, 3.63 g | O1C(OCC1)C=1OC2=C(C1C=O)C=CC=C2 | C12H10O4
reactant | formic acid | 433 mmol, 16.3 ml | C(=O)O | CH2O2
reactant | formic acid | 10 ml | C(=O)O | CH2O2
solvent | water | 4.1 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | water | 2.5 ml | O | H2O
product | 1-benzofuran-2,3-dicarbaldehyde | 2.66 g, 92% | O1C(=C(C2=C1C=CC=C2)C=O)C=O | C10H6O3
